US06586441B2
To a stirred solution of 493 mg (1.58 mmol) 2-amino-4-(5-bromo-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile in 10 ml DME was added 2.1 ml (11,3 mmol) sodium methylate solution (5.4M in methanol) and the mixture heated at 50° C. for 1 h. The reaction mixture was then poured into 100 ml ice-water and the resulting precipitate collected by filtration and washed with water. Chromatography (ethyl acetate/hexane 1/1) afforded 363 mg (87%) 2-amino-4-(5-methoxy-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile as a light yellow crystalline solid. EI-MS m/e (%): 262 (M+, 100).

reactant | 2-amino-4-(5-bromo-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 1.58 mmol, 493 mg | NC1=NC(=C(C(=N1)C=1OC(=CC1)Br)C#N)SC | C10H7BrN4OS
reactant | sodium methylate | 11,3 mmol, 5.4M, 2.1 ml | C[O-].[Na+]
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 2-amino-4-(5-methoxy-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 363 mg, 87% | NC1=NC(=C(C(=N1)C=1OC(=CC1)OC)C#N)SC | C11H10N4O2S
